US06794380B2
N-[3-(4-methylpiperazin-1-ylmethyl)phenyl]-2-methyl-5-(2-morpholinopyrid-4-ylcarbonylamino)benzamide
Using an analogous procedure to that described in Example 1, 2-morpholinopyridine-4-carbonyl chloride was reacted with N-[3-(4-methylpiperazin-1-ylmethyl)phenyl]-5-amino-2-methylbenzamide. The residue was purified by column chromatography on an ion exchange column (isolute SCX column from International Sorbent Technology Limited, Hengoed, Mid-Glamorgan, UK) using initially methanol and then a 99:1 mixture of methanol and a saturated aqueous ammonium hydroxide solution as eluent. There was thus obtained the title compound in 27% yield; Mass Spectrum: M+H+ 529.

reactant | 2-morpholinopyridine-4-carbonyl chloride | O1CCN(CC1)C1=NC=CC(=C1)C(=O)Cl | C10H11ClN2O2
reactant | N-[3-(4-methylpiperazin-1-ylmethyl)phenyl]-5-amino-2-methylbenzamide | CN1CCN(CC1)CC=1C=C(C=CC1)NC(C1=C(C=CC(=C1)N)C)=O | C20H26N4O
product | N-[3-(4-methylpiperazin-1-ylmethyl)phenyl]-2-methyl-5-(2-morpholinopyrid-4-ylcarbonylamino)benzamide | 27% yield | CN1CCN(CC1)CC=1C=C(C=CC1)NC(C1=C(C=CC(=C1)NC(=O)C1=CC(=NC=C1)N1CCOCC1)C)=O | C30H36N6O3
